US08106043B2
N-(4-(2-(Ethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]oxazin-7-yl)thiophene-2-carboximidamide dihydrochloride (7):
A suspension of N-(4-(2-(ethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]oxazin-7-yl)thiophene-2-carboximidamide (0.1 g, 0.303 mmol) in MeOH (3 mL), under positive argon pressure, was treated with a 1M HCl ethereal solution (1.51 mL, 1.51 mmol). The reaction stirred at room temperature for 1 hour, and the mixture was then concentrated to give a yellow-brown solid (93 mg, 76%). 1H-NMR (DMSO-d6) δ 11.20 (brs, 1H), 9.67 (brs, 1H), 9.23 (brs, 2H), 8.67 (brs, 1H), 8.16-8.08 (m, 2H), 7.37-7.36 (m, 1H), 7.04 (d, J=8.4, 1H), 6.87-6.81 (m, 2H), 4.30-4.25 (m, 2H), 3.66 (t, J=6.3 Hz, 2H), 3.12-2.95 (m, 4H), 2.58-2.45 (m, 2H), 1.24 (t, J=7.2 Hz, 3H); ESI-MS (m/z, %): 331 (MH+, free base, 100), 260 (95); ESI-HRMS calculated for C19H25N4OS (MH+, free base): 331.1587, observed: 331.1597; HPLC purity: 95.4% by area.

reactant | N-(4-(2-(ethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]oxazin-7-yl)thiophene-2-carboximidamide | 0.303 mmol, 0.1 g | C(C)NCCN1C2=C(OCC1)C=C(C=C2)NC(=N)C=2SC=CC2 | C17H22N4OS
reactant | HCl | 1.51 mmol, 1M, 1.51 mL | Cl | ClH
solvent | MeOH | 3 mL | CO | CH4O
product | N-(4-(2-(Ethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]oxazin-7-yl)thiophene-2-carboximidamide dihydrochloride | 93 mg, 76% | Cl.Cl.C(C)NCCN1C2=C(OCC1)C=C(C=C2)NC(=N)C=2SC=CC2 | InChI=1S/C17H22N4OS.2ClH/c1-2-19-7-8-21-9-10-22-15-12-13(5-6-14(15)21)20-17(18)16-4-3-11-23-16;;/h3-6,11-12,19H,2,7-10H2,1H3,(H2,18,20);2*1H
